US05792769
c) 2- Chlorobenzenesulfonic acid 3-[[1-(aminoiminomethyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester
2-Chlorobenzenesulfonic acid 3 -[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester (0.14 g, 0.26 mmol), as prepared in the preceding step, was treated with 2.5 mL of 25% trifluoroacetic acid in methylene chloride at ambient temperature for 15 min. The solvent was evaporated, the residue was azeotroped with acetonitrile (2 times), and placed under high vacuum. The residue was dissolved in methanol (3 mL) and treated with 1H-pyrazole-1-carboxamidine hydrochloride (0.057 g, 0.39 mmol) and N,N-duisopropylethylamine (0.136 mL, 0.78 mmol). The reaction mixture was stirred at ambient temperature overnight. An additional portion of 1H-pyrazole-1-carboxamidine hydrochloride (10 mg) was added to the reaction mixture and then was stirred for 6 h. The solvent was evaporated to dryness. The residue was triturated with hexane and ether. The residue was dissolved in acetonitrile and diluted with diethylether to produce a crystalline crop, which was collected by filtration to give 25.3 mg of solid. 1H-NMR (CDCl3 ; 300 MHz): δ 1.44-1.55 (m, 2H), 1.95-2.1 (m, 3H ), 3.11 (t, 2H ), 3.81 (d, 2H), 3.87 (s, 3H), 4.07 (d, 2H), 6.90 (t, 1H), 7.38 (m, 5H), 7.64 (m, 2H), 7.96 (m, 1H). Mass spectrum MADLDI-TOF) calcd. for C21H24N3O6SCl: 482.1 (M+H). Found 483.5.

reactant | 2-Chlorobenzenesulfonic acid 3 -[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester | 0.26 mmol, 0.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C(=O)OC)OS(=O)(=O)C1=C(C=CC=C1)Cl | C25H30ClNO8S
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.39 mmol, 0.057 g | Cl.N1(N=CC=C1)C(=N)N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 10 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2- Chlorobenzenesulfonic acid 3-[[1-(aminoiminomethyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester | 25.3 mg | NN=CN1CCC(CC1)COC=1C=C(C=C(C1)C(=O)OC)OS(=O)(=O)C1=C(C=CC=C1)Cl | C21H24ClN3O6S
